Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
ILI, ___
 
Major Surgical or Invasive Procedure:
EGD (___)

 
History of Present Illness:
As per HPI by admitting MD:

___ yo M with history of CAD s/p stenting and ICD presenting with
melena and URI symptoms. Patient reports 4 days ago he began
having generalized weakness, fatigue, cough, subjective fevers
and chills. He has had decreased PO intake over the last 4 days
and has been dizzy while standing. This evening he was sitting 
on
the couch and passed out for ___ seconds which was witnessed by
his wife. No fall or headstrike. No chest pain, SOB, abd pain,
urinary sx, diarrhea or hematochezia. He has been having melena
over the past two days which is a new finding. No prior 
___.
He was taken to ___ where he was found to be flu
positive and had guiac positive stool on rectal. He received IV
PPI and had a trop I of .09 and was transferred here for further
work up. Reports ibuprofen use over the last several days. Has
had two episodes of melena total. 

In the ED, initial vitals:  
T98.3 HR62 BP118/82 RR18 O2-97 RA 
- Exam notable for:  
Well appearing in NAD
RRR
CTAB
no ttp
- Labs notable for:  
H/H 9.9/30.2
BUN 38 Cr 1.1
INR 1.2
- Imaging notable for:  
- Pt given:  1L LR 

Upon arrival to the floor, the patient reports that he is tired
and fatigued by otherwise feels well. He continues to endorse
some melena. Denies hematochezia, abdominal pain,
lightheadedness, shortness of breath, or chest pain. He 
otherwise
endorses the above history. 

 
Past Medical History:
CAD s/p BMS to ___ in ___
ICD 

 
Social History:
___
Family History:
Reviewed and found to be non contributory to this illness.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS:  ___ 0701 Temp: 98.2 PO BP: 120/59 Sitting HR: 62
RR: 20 O2 sat: 97% O2 delivery: Ra 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no edema  
Skin: Warm, dry, no rashes or notable lesions on exposed skin.  
Neuro: CNII-XII intact

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 1143)
    Temp: 97.5 (Tm 98.8), BP: 97/55 (97-146/55-74), HR: 59 
(59-60), RR: 16 (___), O2 sat: 96% (92-97), O2 delivery: Ra  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no edema  
Skin: Warm, dry, no rashes or notable lesions on exposed skin.  
Neuro: CNII-XII intact
 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:10AM   WBC-5.4 RBC-3.17* HGB-9.6* HCT-29.8* MCV-94 
MCH-30.3 MCHC-32.2 RDW-14.4 RDWSD-49.3*
___ 10:10AM   PLT COUNT-133*
___ 04:36AM   ___ PTT-23.3* ___
___ 04:02AM   GLUCOSE-148* UREA N-38* CREAT-1.1 SODIUM-144 
POTASSIUM-4.4 CHLORIDE-110* TOTAL CO2-22 ANION GAP-12
___ 04:02AM   estGFR-Using this
___ 04:02AM   ALT(SGPT)-20 AST(SGOT)-24 ALK PHOS-44 TOT 
BILI-0.2
___ 04:02AM   cTropnT-<0.01
___ 04:02AM   ALBUMIN-3.6
___ 04:02AM   WBC-5.7 RBC-3.26* HGB-9.9* HCT-30.2* MCV-93 
MCH-30.4 MCHC-32.8 RDW-14.2 RDWSD-48.2*
___ 04:02AM   NEUTS-76.0* LYMPHS-16.2* MONOS-6.9 EOS-0.0* 
BASOS-0.4 IM ___ AbsNeut-4.33 AbsLymp-0.92* AbsMono-0.39 
AbsEos-0.00* AbsBaso-0.02
___ 04:02AM   PLT COUNT-144*

DISCHARGE LABS:
===============
___ 04:07AM BLOOD WBC-4.5 RBC-2.73* Hgb-8.4* Hct-25.6* 
MCV-94 MCH-30.8 MCHC-32.8 RDW-14.2 RDWSD-48.6* Plt ___
___ 04:07AM BLOOD ___ PTT-24.8* ___
___ 04:07AM BLOOD Glucose-102* UreaN-18 Creat-1.1 Na-142 
K-4.0 Cl-107 HCO3-27 AnGap-8*
___ 04:07AM BLOOD Calcium-8.1* Phos-2.9 Mg-1.9

EKG ___
sinus rhythm@62 bpm
Q waves throughout
T wave inversions in I and avL 
+pvc 

EGD ___
Normal mucosa in the whole esophagus. 
Ulcers in the antrum.
Normal mucosa in the whole examined duodenum. 

 
Brief Hospital Course:
___ yo M with history of CAD s/p stenting and ICD who presented 
with  URI symptoms diagnosed with the flu and 2 days of melena 
c/b syncope with EGD showing small antral ulcers concerning for 
NSAID-induced PUD. 

ACTIVE ISSUES:
# UGI Bleed:
# PUD: 
# Anemia: 
Patient presented with 2 days of melena and found to have anemia 
with Hb 11.1 initially at OSH, and subsequently 9.9 upon arrival 
to ___ ED. Labs otherwise notable for elevated BUN consistent 
with UGI bleed. Of note patient reports recent excessive 
ibuprofen use in the setting of URI. He is on home ASA/plavix 
for CAD s/p stenting. No other evidence of bleeding. He was 
started on IV pantoprazole BID and taken of DAPT. Hgb stabilized 
at ~8. He underwent and EGD on ___ that showed a single 5 mm 
superficial non-bleeding ulcer in the gastric antrum, as well as 
a few superficial non-bleeding 1 mm ulcers. No biopsies were 
taken and the patient did not require any interventions. GI 
recommended high dose PPI BID for 8 weeks, stool H. pylori 
antigen, and repeat EGD in 12 weeks to evaluate for healing of 
ulcers. Discharge hemoglobin 8.4/25.6, and he has been 
hemodynamically stable. 

# Syncope: 
Prior to arrival, he was noted to syncopize while sitting on the 
couch with loss of consciousness for ___ seconds. No fall, 
headstrike, or witnessed tonic-clonic movements. Likely 
secondary to anemia vs orthostatic
iso hypovolemia (decreased PO intake and GI bleed). s/p 1L LR on 
arrival with improvement and resolution of symptoms therafter. 
Telemetry did not have any pauses and although he had c/f 
arrhythmia (below) he had no syncope during this time. 

# Influenza positive: 
Presents with 4 days ago of symptoms including cough, fevers, 
chills. Found to be influenza positive at OSH. Started on 
os___ 75mg BID for x5 days. Began ___ in ___ and will 
need total 5 days. 

# C/F Atrial fibrillation vs. MAT vs. sinus arrhythmia:
Prior to discharge, the patient was noted to have an 11 second 
run of tachycardia to 110s with some irregularity. Unclear if 
atrial fibrillation vs. sinus arrhythmia vs. MAT. Did not recur. 
CHA2DS2VASc 3. Given acute bleed, decided to defer 
anticoagulation and discussed risks with family and patient. 
Plan is to follow-up with outpatient cardiologist in the next 2 
weeks to get pacer interrogated and see if he is having atrial 
fibrillation and what his burden may be. At that time, they can 
discuss anticoagulation. He was counseled on the risk of stroke 
in the setting of possible AFib. As an outpatient he may have a 
TSH checked and an echocardiogram. 

CHRONIC/STABLE PROBLEMS:  
========================
#  CAD s/p stenting in ___ (___)
Initially noted to have troponin of 0.09 that subsequently 
stabilized; all troponin testing was negative at ___. EKG with 
diffuse Q-waves suggestive of prior infarcts. His cardiologist 
was contacted but unable to be reached and therefore his EKG 
could not be compared to prior. Nonetheless, given his lack of 
positive cardiac enzyme and chest pain, his EKG findings were 
not felt to be in the setting of ACS. He will need close follow 
up with his cardiologist. With regards to DAPT, his last cardiac 
stent was ___ years ago, and he has been on aspirin 325mg and 
plavix together. He does not recall specifically discussing if 
plavix could be discontinued. Given his active bleeding, plavix 
was stopped and he was continued on aspirin 325mg alone. He will 
need to f/u with his cardiologist to discuss this. Additionally 
can consider decreasing dose to 81mg daily. He was also continue 
on his home metoprolol, lisinopril & statin. 

TRANSITIONAL ISSUES:
====================
[ ] Patient requires 8 weeks of pantoprazole 40 mg BID for 
treatment of antral ulcers.
[ ] Please repeat CBC within ___ weeks to ensure improvement in 
blood counts. Prior baseline Hgb ___.
[ ] Patient requires follow-up with GI in 12 weeks for repeat 
EGD to evaluate for ulcer healing.
[ ] Ensure follow with cardiology within the next ___ weeks. 
[ ] Patient should be on high intensity statin for secondary 
prevention given his history of CAD.
[ ] Discuss restarting DAPT if needed given his history of MVD. 
Patient is ___ years out from ___, and now this has been 
complicated by GIB. 
[ ] See above regarding atrial fibrillation concern. Please 
consider interrogating pacer at next visit to see if he truly 
has pAF and requires anticoagulation for it.
[ ] Patient requires colonoscopy as part of his age-appropriate 
cancer screening.
[ ] Consider decreasing aspirin to 81 mg daily. 
[ ] To complete remained of 5 day course of tamiflu for 
influenza treatment. 

Time spent: 50 minutes 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 50 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Simvastatin 40 mg PO QPM 
4. Lisinopril 20 mg PO DAILY 
5. Aspirin 325 mg PO DAILY 
6. Fish Oil (Omega 3) 1000 mg PO DAILY 

 
Discharge Medications:
1.  OSELTAMivir 75 mg PO BID Duration: 3 Days 
RX *oseltamivir 75 mg 1 capsule(s) by mouth twice a day Disp #*6 
Capsule Refills:*0 
2.  Pantoprazole 40 mg PO BID Duration: 8 Weeks 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*112 Tablet Refills:*0 
3.  Aspirin 325 mg PO DAILY  
4.  Fish Oil (Omega 3) 1000 mg PO DAILY  
5.  Lisinopril 20 mg PO DAILY  
6.  Metoprolol Succinate XL 50 mg PO DAILY  
7.  Simvastatin 40 mg PO QPM  
8. HELD- Clopidogrel 75 mg PO DAILY  This medication was held. 
Do not restart Clopidogrel until your cardiologists tells you it 
is safe to restart it.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Peptic Ulcer Disease
Upper GI Bleeding
NSAID-Induced Gastric Ulcers
Influenza

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___. You were admitted 
to the hospital because you had bleeding from your 
gastrointestinal tract. Your blood levels dropped and you were 
having black stools. You had an endoscopy that showed small 
ulcers in your stomach that are likely related to use of 
anti-inflammatory medications like ibuprofen (Advil) and 
naproxen (Aleve). These will hopefully resolve with time. We 
have started you on treatment with acid suppressing medications 
for the next 8 weeks. The plan is for you to have an endoscopy 
in 12 weeks to ensure these have resolved. We have also stopped 
your Plavix for now because of your risk of bleeding. you should 
discuss restarting it with your cardiologist after your ulcers 
resolve.

You were also found to have the flu and you were started on 
anti-flu medication called Tamiflu which you should take for 3 
additional days after you leave the hospital.

Please make sure that you keep all your appointments and take 
your medications as prescribed. Avoid any non-steroidal 
anti-inflammatory drugs (NSAIDs) such as ibuprofen and naproxen.

Wishing you a speedy recovery,
Your ___ Care Team
 
Followup Instructions:
___